Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
Pain and swelling in right axilla
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a h/o PE on coumadin, s/p hysterectomy with retention 
of ovaries and persistent pelvic fluid collection, fibromyalgia, 
depression/anxiety who presents with swelling/pain in R axilla 
and abdominal pain. The patient reports that approximately 2 
days prior to admission, she was shaving her underarm, when she 
noticed a painful nodule within her axilla. She reports 
increasing tenderness in the region over the subsequent days. 
She denies experiencing this in the past. She denies any 
fevers/chills, surrounding erythema, drainage, or bleeding.  

In addition, patient also presenting with LLQ and RLQ pain x 4 
days that resembles pain she associates with past ovarian cysts. 
She describes the pain as intermittently sharp, ___ intensity. 
On the morning of admission, she experienced a small amount of 
blood on the toilet paper following a bowel movement. She states 
this is consistent with her history of hemorrhoids and anal 
fissures. She denies nausea, vomiting, or diarrhea. No back 
pain, dysuria or increased frequency. She is not currently 
sexually active and has no vaginal discharge.  
  
In the ED, initial VS: 98.2 103 131/75 18 100% RA. On exam, 
patient had two harge hemmorhoids, guiac negative. Labs were 
significant for INR 12.3, WBC 3.3. CT A/P showed a Richter 
hernia containing short segment loop of ileum in RLQ, with 
suggestion of focal partial obstruction, but no significant 
upstream dilation (CT unchanged from prior per radiologist), 
normal appx. Patient was given Clindamycin 150 mg PO X 1 and 
vitamin K 10 mg X 1. She was also given Percocet ___ mg X 2 
and oxycodone 10 mg X 1. Surgery was consulted who felt no need 
to excise at this time. VS at the time of transfer: 97.8 PO 76 
152/100 18 98%RA. Fo access, patient has 18G L AC. Patient was 
admitted to medicine for elevation of INR.  
  
Currently, the patient has no ocute concerns. She states that 
she last took coumadin ___ (10 mg). Her 
most recent INR check was 1.6 on ___. She was instructed to 
take an extra dose of coumadin 10 mg and resume her usual 
regimen.  No recent medication changes (last addition was 
Wellbutrin at the end of ___, diet consistent, except for one 
day of decreased appetite 4 days ago.
 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression 
9. anxiety  
10. obesity  
11. sleep apnea 
12. migraines
13. GERD
14. chronic lower back pain
 
Social History:
___
Family History:
Father's health unknown except potential h/o stomach cancer; 
Uncle has unknown cancer.
Mother living at ___ with arthritis and osteoporosis
Aunt recently passed at ___ ___nd heart disease.
Grandmother with breast cancer
No siblings
Children healthy
 
Physical Exam:
VS - Temp 98.0 F, BP 150/104, HR 80, R 18, O2-sat 100% RA  
GENERAL - NAD, comfortable  
HEENT - sclerae anicteric, MMM, OP clear  
NECK - supple, no JVD, no lymphadenopathy  
LUNGS - CTA bilat, no r/rh/wh, good air movement  
BREAST - Bilateral breasts equal, no external lesions, no 
drainage from nipples, no palpable mass, right nipple slightly 
retracted (no recent change per patient)
Axilla- Right axilla with 1x3cm nodule, tender, nonerythematous, 
no fluctuance, left axilla with pinpoint tenderness surrounding 
hair follicle
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - obese, +BS, soft, mild tenderness in RLQ, no masses or 
HSM, no rebound/guarding  
LYMPH - No axillary, inguinal lymphadenopathy
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, CNs II-XII intact, motor strength ___ in 
all extremities
 
Pertinent Results:
___ 06:30AM BLOOD WBC-4.0 RBC-4.03* Hgb-11.1* Hct-34.4* 
MCV-85 MCH-27.4 MCHC-32.2 RDW-13.9 Plt ___
___ 06:36PM BLOOD WBC-3.3* RBC-4.10* Hgb-11.3* Hct-34.9* 
MCV-85 MCH-27.7 MCHC-32.4 RDW-13.4 Plt ___
___ 06:36PM BLOOD Neuts-25* Bands-0 Lymphs-64* Monos-8 
Eos-1 Baso-0 Atyps-2* ___ Myelos-0
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___ PTT-55.1* ___
___ 07:02PM BLOOD ___ PTT-52.0* ___
___ 06:36PM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-101* UreaN-8 Creat-0.8 Na-143 
K-4.0 Cl-106 HCO3-32 AnGap-9
___ 06:30AM BLOOD ALT-17 AST-20 AlkPhos-89 TotBili-0.1
___ 06:30AM BLOOD Calcium-9.3 Phos-4.3# Mg-1.9

___ CT abdomen/pelvis:
There is mild atelectasis at the lung bases. Heart is normal in 
size, without pericardial effusion. There is a moderate sliding 
hiatal hernia.
 
ABDOMEN: The liver enhances homogeneously. Gallbladder is 
collapsed. The pancreas is unremarkable. There is no intra- or 
extra-hepatic biliary ductal dilation. The spleen is normal in 
size.
 
Adrenals are normal. The kidneys enhance and excrete contrast 
promptly and symmetrically, without masses or hydronephrosis.
 
The stomach is normal. Again seen is an incisional Richter 
hernia of the distal ileum (2:65), with projection of the 
antimesenteric portion into the surgical defect. There is no 
significant wall thickening or inflammatory stranding, and the 
appearance is stable over multiple examinations.
 
PELVIS: Surgical scar is present in the anterior pelvic wall, 
with fascial thickening and fat stranding. Uterus is surgically 
absent, with intact vaginal cuff and mild fascial thickening 
along the pelvic sidewalls. Adnexa are within normal limits. 
There is no free fluid or air.
 
The appendix is normal. Transverse and sigmoid colon are 
markedly redundant. The bladder and distal ureters are 
unremarkable.
 
Mesenteric and retroperitoneal lymph nodes are not 
pathologically enlarged.
 
There is minimal retrolisthesis at L4-L5, with small diffuse 
disc bulge that abuts the thecal sac outline. Please note that 
CT cannot visualize intrathecal detail. Moderate facet 
hypertrophy is also present at this level.
 
IMPRESSION:
1. No acute abdominal process.
2. Post-hysterectomy changes.
3. Unchanged incisional Richter hernia in the right lower 
quadrant.
 
Brief Hospital Course:
___ yo F with a h/o PE on coumadin with poor compliance, 
fibromyalgia, depression/anxiety who presents with 2 days of 
swelling and pain at R axilla, noted to have an INR 12.3 in the 
ED.  

# Supratherapeutic INR / PE on coumadin: INR ___ s/p 10 mg PO 
vitamin K in ED. Per patient, recent uptitration of coumadin 
dosing due to subtherapeutic INR. Patient endorses streaks of 
blood in the stool and on toilet paper.  Rectal exam in the ED 
revealed large hemorrhoids and guaiac negative stool.  Hct 
stable.  No evidence of clinically significant bleeding at this 
time. No indication for acute reversal of her coagulopathy with 
FFP. INR on ___ is 13.4, but unlikely reflecting Vitamin K 
effect.  Will have INR drawn with ___ on ___ and 
monitor closely as outpatient.  Discharged on no Coumadin.

# R Axillary pain/swelling: Differential for exam finding 
includes inflamed cyst vs. folliculitis. Low suspicion for 
abscess given lack of fluctuance, fever/chills, leukocytosis. 
Surgery evaluated patient in ED, and did not find abscess 
requiring I&D.  Received one dose of Clindamycin in the ED, but 
did not continue on the floor due to potential interaction with 
Coumadin and because of diagnosis of folliculitis is best 
treated with warm compresses. 

# Abdominal pain: Unclear etiology but similar to prior pain 
from ovarian cyst. Exam benign. CT abdomen shows no acute 
intra-abdominal pathology.  Hernia is stable from prior per 
radiologist. Pain consistent with prior pain from ovarian cyst 
with endometrial cells with suspected endometriosis. Continued 
on home dose percocet for pain control. Patient has followup 
with Ob/Gyn, Dr. ___, in 2 weeks.

# HTN: stable.  Continued home lisinopril 30 mg daily.
  
# Depression/Anxiety: No evidence of overt psychosis. No SI, 
AH/VH.  Continued home dose Wellbutrin, Seroquel, Ambien, and 
Lorazepam.

# Transitional issues:
Will follow up on ___ with ___ for INR check and 
adjust coumadin dose accordingly.
 
Medications on Admission:
BUPROPION HCL - 100 mg Tablet - one Tablet twice a day  
LEUPROLIDE - 11.25 mg Syringe Kit - for im injection q 3 months  

LISINOPRIL - 30 mg Tablet - 1 Tablet(s) by mouth once a day  
LORAZEPAM - 1 mg Tablet - one Tablet(s) by mouth each day  
ONDANSETRON HCL - 8 mg Tablet - 1 Tablet(s) by mouth q8h prn 
nausea  
OXYCODONE-ACETAMINOPHEN - 5 mg-325 mg Tablet - ___ Tablet(s) prn 
 
QUETIAPINE [SEROQUEL] - 200 mg Tablet - 2 Tablet(s) by mouth QHS 
 
TIZANIDINE [ZANAFLEX] - 4 mg Capsule - 2 Capsule(s) by mouth hs  

WARFARIN - 5 mg M-Th, 10 mg ___  
ZOLPIDEM [AMBIEN CR] - 12.5 mg Tablet - 1 Tablet(s) by mouth 
daily  
DOCUSATE SODIUM [COLACE] - 100 mg Capsule - 2 capsule daily  
 
Discharge Medications:
1. bupropion HCl 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. leuprolide (3 month) 11.25 mg Syringe Kit Sig: One (1)  
Intramuscular q3months.  
3. lisinopril 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
4. lorazepam 1 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
6. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.  
7. quetiapine 200 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).  
8. tizanidine 4 mg Capsule Sig: Two (2) Capsule PO at bedtime.  
9. zolpidem 5 mg Tablet Sig: 2.5 Tablets PO HS (at bedtime).  
10. Colace 100 mg Capsule Sig: ___ Capsules PO once a day as 
needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Supratherapeutic INR
Folliculitis
Ovarian Cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your 
hospitalization.  You were admitted because your INR (Coumadin) 
level was very high.  You had some bleeding in your stool, 
likely from hemorrhoids.  Your red blood count was stable.  We 
treated the high INR level with Vitamin K and stopped your 
Coumadin.

You also have a small infection of the hair follicles in your 
armpit.  This should resolve with warm compresses to the area.

Please follow up with your Ob/Gyn doctor for further treatment 
of your ovarian cyst.

We made the following changes to your medications:
STOPPED Coumadin
(You will have your blood drawn on ___ at 1PM with ___ 
___, who will instruct you with Coumadin dosing)
 
Followup Instructions:
___